US06417200B1
F) N1-[3-(amino(hydroxyimino)methyl)benzoyl]-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine
To a mixture of N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine (445 mg, 1.11 mmol) and absolute EtOH (30 mL) was added hydroxylamine hydrochloride (125 mg, 1.80 mmol) followed by triethylamine (0.3 mL, 2.15 mmol). The resulting mixture was heated to 80° C. for 2 h, cooled to room temperature, and filtered to give the title compound as a solid (238 mg, 0.55 mmol, 50%); NMR(300 MHz, d6-DMSO): δ9.92 (s, 1H), 9.76 (s, 1H), 9.69 (s, 1H), 9.53 (s, 1H), 8.23 (s, 1H), 7.84 (m, 4H), 7.49 (m, 1H), 7.29 (m, 4H), 6.65 (d, J=9.0, 1H), 5.85 (s, 2H), 2.92 (m, 1H), 1.19 (s, 3H), 1.17 (s, 3H); MS(FD): 432.2.

reactant | N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine | 1.11 mmol, 445 mg | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C24H21N3O3
reactant | hydroxylamine hydrochloride | 1.80 mmol, 125 mg | Cl.NO
reactant | triethylamine | 2.15 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 30 mL | CCO | C2H6O
product | N1-[3-(amino(hydroxyimino)methyl)benzoyl]-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine | 0.55 mmol, 238 mg, 50% | NC(C=1C=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1)=NO | C24H24N4O4
